US08729068B2
To a mixture of 3.35 g of cyclopropylamine, 1.0 mL of acetic acid, 9.34 g of sodium triacetoxyborohydride, and 30 mL of 1,2-dichloroethane was added dropwise 5.00 g of ethyl 4-oxocyclohexane carboxylate at room temperature. After stirring at room temperature for 14 hours, to the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution to quench the reaction. To the reaction mixture was added chloroform, followed by extraction and then the organic layer was dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (aqueous ammonia-methanol-chloroform) to obtain 5.62 g of ethyl 4-(cyclopropylamino)cyclohexane carboxylate as a colorless oily substance.

reactant | cyclopropylamine | 3.35 g | C1(CC1)N | C3H7N
reactant | sodium triacetoxyborohydride | 9.34 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl 4-oxocyclohexane carboxylate | 5.00 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | ethyl 4-(cyclopropylamino)cyclohexane carboxylate | 5.62 g | C1(CC1)NC1CCC(CC1)C(=O)OCC | C12H21NO2
